US07285563B2
N-(6-Fluoroisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 6-fluoroisoquinolin-5-amine (Description 89) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to Description 61. m/z (ES+) 364 (M+H)+.

reactant | 6-fluoroisoquinolin-5-amine | FC1=C(C=2C=CN=CC2C=C1)N | C9H7FN2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-(6-Fluoroisoquinolin-5-yl)-N′-[4-(trifluoromethyl)benzyl]urea | FC=1C(=C2C=CN=CC2=CC1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C18H13F4N3O
